US06258827B1
A mixture of 3,3-dibromo-6-methyl-7-triisopropylsilyloxychroman-4-one and 6-methyl-3,3,5-tribromo-7-triisopropylsilyloxychroman-4-one (the compounds of Preparation 34, 1.0 g), 4-(4-(fluorophenyl)-4-hydroxypiperidine (0.79 g, 4.05 mmol) and triethylamine (0.60 mL, 4.30 mmol) in acetonitrile (30 mL) was stirred 30 min at ambient temperature. The precipitate which formed was collected by filtration to afford 0.188 g of 5-bromo-6-methyl-7-triisopropylsilyloxy-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chromen-4-one. The filtrate was flash chromatographed on silica gel (1×4 inches packed in hexane) with elution proceeding as follows: 20% ethyl acetate/hexane (100 mL), 0.115 g of 6-methyl-7-triisopropylsilyloxy-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chromen-4-one as a light yellow solid which had mp 193-195° C.; 20% ethyl acetate/hexane (100 mL) and 40% ethyl acetate/hexane (100 mL), 0.07 g of a mixture; 40% ethyl acetate/hexane (100 mL) and 60% ethyl acetate/hexane (400 mL), 0.30 g of 6-methyl-7-hydroxy-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chromen-4-one.

reactant | 3,3-dibromo-6-methyl-7-triisopropylsilyloxychroman-4-one | BrC1(COC2=CC(=C(C=C2C1=O)C)O[Si](C(C)C)(C(C)C)C(C)C)Br | C19H28Br2O3Si
reactant | 6-methyl-3,3,5-tribromo-7-triisopropylsilyloxychroman-4-one | CC=1C(=C2C(C(COC2=CC1O[Si](C(C)C)(C(C)C)C(C)C)(Br)Br)=O)Br | C19H27Br3O3Si
reactant | 4-(fluorophenyl)-4-hydroxypiperidine | 4.05 mmol, 0.79 g | FC1=C(C=CC=C1)C1(CCNCC1)O | C11H14FNO
reactant | triethylamine | 4.30 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 5-bromo-6-methyl-7-triisopropylsilyloxy-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chromen-4-one | 0.188 g | BrC1=C2C(C(=COC2=CC(=C1C)O[Si](C(C)C)(C(C)C)C(C)C)N1CCC(CC1)(O)C1=CC=C(C=C1)F)=O | C30H39BrFNO4Si
